US09061994B1
Synthesis of trans-3-(1H-indol-3-yl)-1-(2-pyridinyl)-2-propen-1-one (10)
Indole-3-carboxaldehyde (200 mg, 1.38 mmol) was added to a dried 100 mL round bottom flask under argon and anhydrous methanol (8 mL) was added. 2-Acetyl-pyridine (232 μL, 2.07 mmol) and piperidine (69 μL, 0.7 mmol) were added and the reaction was stirred under reflux for 24 hours, after which still no precipitate had formed (AcOH did not lead to precipitation). The crude reaction mixture was concentrated and directly applied to a silica column for chromatography (ethyl acetate:hexanes 1:1). The product was partially separated from the aldehyde starting material (some product coeluted with aldehyde and was discarded), and 80 mg (23%) of purified product was isolated. NMR: 1H NMR (600 MHz, d6-DMSO): δ 11.989 (s, 1H, N—H), 8.831-8.819 (m, pyr-H2), 8.220-8.194 (d, J=15.6, 1H, C═CH), 8.154-8.105 (m, 3H, C═CH, indole-H2, pyr-H3), 8.052-8.027 (m, 1H, pyr-H4), 7.976-7.962 (m, 1H, indole-H4), 7.679-7.656 (m, 1H, pyr-H5), 7.522-7.508 (m, 1H, indole-H7), 7.285-7.262 (m, 2H, indole-H5,6). 13C NMR (150 MHz, d6-DMSO): δ 188.2, 154.3, 149.1, 139.3, 137.7, 137.6, 134.2, 127.1, 125.1, 122.3, 122.2, 121.4, 120.1, 114.3, 113.1, 112.7. Melting Point: 141-145° C. TLC: (ethyl acetate:hexanes 4:1) Rf=0.40. Elemental analysis calculated for C16H12N2O.0.1C4H8O2: C, 76.62; H, 5.02; N, 10.90. found: C, 76.41; H, 5.03; N, 10.80.

reactant | Indole-3-carboxaldehyde | 1.38 mmol, 200 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | methanol | 8 mL | CO | CH4O
reactant | 2-Acetyl-pyridine | 2.07 mmol, 232 μL | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | piperidine | 0.7 mmol, 69 μL | N1CCCCC1 | C5H11N
solvent | AcOH | CC(=O)O | C2H4O2
product | trans-3-(1H-indol-3-yl)-1-(2-pyridinyl)-2-propen-1-one | N1C=C(C2=CC=CC=C12)/C=C/C(=O)C1=NC=CC=C1 | C16H12N2O
